US03968220
Preparation of 4,5-Dimethyl-1-hydroxy-2-n-propylimidazole-3-oxide
A mixture of butyraldoxime (8.7 g., 0.1 mole) and diacetyl monoxime (10.1 g., 0.1 mole) was warmed to obtain a homogeneous solution. After standing for 2 days at room-temperature, the mixture was heated on the steam-bath for 3 hr., and then diluted with ether (500 ml), the tan solid separated was removed by filtration (16.7 g.) and recrystallised from ethanol (95%) having a melting point 174°-175°C

reactant | butyraldoxime | 0.1 mole, 8.7 g | C(CCC)=NO | C4H9NO
reactant | diacetyl monoxime | 0.1 mole, 10.1 g | C/C(=N\O)/C(=O)C | C4H7NO2
solvent | ether | 500 ml | CCOCC | C4H10O
product | 4,5-Dimethyl-1-hydroxy-2-n-propylimidazole-3-oxide | CC=1[N+](=C(N(C1C)O)CCC)[O-] | C8H14N2O2
